US05731322
(±)-trans-6-Ethyl-3-methyl-8a-(3-methoxyphenyl)-2-phenylaminocarbonyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline
0.8 g (2.47 mmol) of (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride, 0.7 g (2.47 mmol) of N-phenyl-2-phenylhydrazono-3-oxobutyramide, 0.24 g (3 mmol) of CH3 COONa, 0.74 g (11.3 mmol) of zinc dust and 2.5 ml of glacial acetic acid were treated as described in example 1. The residue was purified by flash chromatography (EtOAc/MeOH/conc. NH4OH 90:10:1) yielding 0.28 g of the title compound. M.p.=178-180° C.

reactant | (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride | 2.47 mmol, 0.8 g | Cl.C(C)N1C[C@@H]2CCC(C[C@]2(CC1)C1=CC(=CC=C1)OC)=O
reactant | N-phenyl-2-phenylhydrazono-3-oxobutyramide | 2.47 mmol, 0.7 g | C1(=CC=CC=C1)NC(C(C(C)=O)=NNC1=CC=CC=C1)=O | C16H15N3O2
catalyst | zinc | 11.3 mmol, 0.74 g | [Zn] | Zn
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | (±)-trans-6-Ethyl-3-methyl-8a-(3-methoxyphenyl)-2-phenylaminocarbonyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline | 0.28 g | C(C)N1C[C@H]2CC3=C(C[C@@]2(CC1)C1=CC(=CC=C1)OC)NC(=C3C)C(=O)NC3=CC=CC=C3 | C28H33N3O2
